US04503243
2,4,8,10-Tetra-t-butyl-6-phenyl-dibenzo[d,g][1,3,2,6]dioxasilathiocin
Utilizing the procedure of Example 1, this compound is prepared from 5.3 grams (0.03 mole) dichlorophenylsilane, 13.3 grams (0.03 mole) 2,2'-thio-bis(4,6-di-t-butylphenol), and 6.1 grams (0.06 mole) triethylamine. Recrystallization from acetone gives 6.7 grams (41% yield) of white solid, mp 175°-177° C.

reactant | dichlorophenylsilane | 0.03 mole, 5.3 grams | Cl[SiH](C1=CC=CC=C1)Cl | C6H6Cl2Si
reactant | 2,2'-thio-bis(4,6-di-t-butylphenol) | 0.03 mole, 13.3 grams | S(C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O)C1=C(C(=CC(=C1)C(C)(C)C)C(C)(C)C)O | C28H42O2S
reactant | triethylamine | 0.06 mole, 6.1 grams | C(C)N(CC)CC | C6H15N
product | 2,4,8,10-Tetra-t-butyl-6-phenyl-dibenzo[d,g][1,3,2,6]dioxasilathiocin | 6.7 grams, 41% yield | C(C)(C)(C)C1=CC2=C(O[SiH](OC3=C(S2)C=C(C=C3C(C)(C)C)C(C)(C)C)C3=CC=CC=C3)C(=C1)C(C)(C)C | C34H46O2SSi
